US06518267B1
b) 4-Methyl-3-(2-pyridyl)phenyl-valeric Acid
4-Methyl-3-(2-pyridyl)phenyl-pent-4-enoic acid (0.5 g, 1.87 mmol) was dissolved in EtOH (15 ml) and 6N HCl (0.15 ml). 10% Palladium on carbon (0.08 g) was added and the reaction mixture was stirred under a balloon of hydrogen gas overnight. Then, additional 10% palladium on carbon (0.09 g) and 6N HCl (0.2 ml) were added and the reaction was stirred under a balloon of hydrogen gas for an additional 6 h. The reaction mixture was then filtered through a pad of Celite, azeotroped with toluene (40 ml) and was suspended in water (3 ml). Aqueous sodium hydroxide (1 M) was then added dropwise until the pH was adjusted to 7. The aqueous layer was then extracted with chloroform 2 times and the combined organics were dried with magnesium sulfate, concentrated in vacuo, and triturated with hexanes/Et2O to yield a white solid (0.3 g, 60%): MS ES(+) 270.1 (M+H+).

reactant | 4-Methyl-3-(2-pyridyl)phenyl-pent-4-enoic acid | 1.87 mmol, 0.5 g | CC1=C(C=C(C=C1)C(C(=O)O)CC=C)C1=NC=CC=C1 | C17H17NO2
reactant | hydrogen | [H][H] | H2
solvent | EtOH | 15 ml | CCO | C2H6O
solvent | HCl | 6N, 0.15 ml | Cl | ClH
catalyst | Palladium on carbon | 0.08 g | [Pd] | Pd
catalyst | palladium on carbon | 0.09 g | [Pd] | Pd
solvent | HCl | 6N, 0.2 ml | Cl | ClH
product | 4-Methyl-3-(2-pyridyl)phenyl-valeric Acid | 0.3 g, 60% | CC1=C(C=C(C=C1)C(C(=O)O)CCC)C1=NC=CC=C1 | C17H19NO2
